US09290451B2
f) 6-(3-Chloro-phenyl)-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid
A mixture of 6-(3-chlorophenyl)-5-(tetrahydrofuran-3-yl)-pyridine-2-carboxylic acid methyl ester (0.15 g, 0.5 mmol) and lithium hydroxide monohydrate (CAN 1310-66-3, 88 mg, 2.1 mmol) in THF/H2O 1/1 (20 mL)) was stirred at room temperature for 1 h. After removal of the organic solvent under reduced pressure, the aqueous phase was washed with ethyl acetate (10 mL) and acidified with 1 N HCl to pH=3. The resulting solution was extracted with ethyl acetate (2×20 mL). The combined organic layer was concentrated under reduced pressure to provide the title compound (0.12 g, 81%) as black oil which was used in the next step without further purification; MS (EI): m/e=304.1 [M+H]+.

reactant | 6-(3-chlorophenyl)-5-(tetrahydrofuran-3-yl)-pyridine-2-carboxylic acid methyl ester | 0.5 mmol, 0.15 g | COC(=O)C1=NC(=C(C=C1)C1COCC1)C1=CC(=CC=C1)Cl | C17H16ClNO3
reactant | lithium hydroxide monohydrate | 2.1 mmol, 88 mg | O.[OH-].[Li+]
solvent | methanol ethyl acetate | 20 mL | CO.C(C)(=O)OCC
product | 6-(3-Chloro-phenyl)-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid | 0.12 g, 81% | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)C1COCC1 | C16H14ClNO3
